US08580841B2
Step B: Preparation of 2-(7-(4-(Pyrrolidin-1-yl)-3-(trifluoromethyl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetic Acid.
To a solution of ethyl 2-(7-(4-(pyrrolidin-1-yl)-3-(trifluoromethyl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate (17.8 mg, 0.037 mmol) in 5 mL (THF/water/MeOH 3:1:1), LiOH hydrate (7.68 mg, 0.183 mmol) was added. After stirring at room temperature for 2 h, the mixture was partially concentrated and the residue was extracted with 0.5 M citric acid and CH2Cl2. The organics were dried over MgSO4, filtered and concentrated to give the title compound as a brownish sticky solid (16.3 mg). LCMS m/z=459.4 [M+H]+; 1H NMR (400 MHz, CDCl3) δ ppm 1.83-1.95 (m, 4H), 2.09-2.16 (m, 1H), 2.57-2.64 (m, 1H), 2.73-2.90 (m, 4H), 3.27-3.35 (m, 4H), 3.53-3.59 (m, 1H), 4.99 (s, 2H), 6.82 (dd, J=8.8, 2.4 Hz, 1H), 6.96-7.01 (m, 2H), 7.19 (d, J=8.7 Hz, 1H), 7.45 (dd, J=8.6 Hz, 2.0 Hz, 1H), 7.66 (d, J=2.0 Hz, 1H), 8.27 (s, 1H).

reactant | ethyl 2-(7-(4-(pyrrolidin-1-yl)-3-(trifluoromethyl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate | 0.037 mmol, 17.8 mg | N1(CCCC1)C1=C(C=C(COC2=CC=3C4=C(NC3C=C2)C(CC4)CC(=O)OCC)C=C1)C(F)(F)F | C27H29F3N2O3
reactant | LiOH hydrate | 0.183 mmol, 7.68 mg | O[Li].O
solvent | THF water MeOH | C1CCOC1.O.CO
product | 2-(7-(4-(Pyrrolidin-1-yl)-3-(trifluoromethyl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetic Acid | 16.3 mg | N1(CCCC1)C1=C(C=C(COC2=CC=3C4=C(NC3C=C2)C(CC4)CC(=O)O)C=C1)C(F)(F)F | C25H25F3N2O3
